US05587383
Synthesis of 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine hydrochloride (Compound 21')
A solution of 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine (279 mg, 1 mmoles) in methanol (10 ml) was treated with hydrogen chloride-methanol. After the solvent was distilled off, the residue was crystallized from isopropanol-ethyl acetate-methanol. The crystals thus obtained were washed with water and dried to obtain 290 mg of the desired product (92.1%, colorless crystals).

reactant | 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine | 1 mmoles, 279 mg | C(C)(C)OC(=O)NCCSC1=CC=CC=2N1C=CN2 | C13H17N3O2S
reactant | hydrogen chloride methanol | Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine hydrochloride | 290 mg, 92.1% | Cl.C(C)(C)OC(=O)NCCSC1=CC=CC=2N1C=CN2 | InChI=1S/C13H17N3O2S.ClH/c1-10(2)18-13(17)15-7-9-19-12-5-3-4-11-14-6-8-16(11)12;/h3-6,8,10H,7,9H2,1-2H3,(H,15,17);1H
